US07763608B2
To a suspension of 1-(4-(4-(hydroxymethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one prepared above (335 mg, 1.25 mmol) in CH3CN (20 mL), SOCl2 (5.0 mL) was added. After the mixture was stirred at room temperature for 2 h, it was concentrated in vacuo. The residue was then dissolved in DMF (20 mL). To the solution, NaN3 (244 mg, 3.75 mmol) was added. After the mixture was stirred at room temperature overnight, water and EtOAc were added. The organic layer was separated, washed with 5% aq. NaHCO3, dried over Na2SO4, concentrated in vacuo to give 1-(4-(4-(azidomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one (203 mg). MS 293 (M+H).

reactant | 1-(4-(4-(hydroxymethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one | OCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C15H13N3O2
reactant | SOCl2 | 5.0 mL | O=S(Cl)Cl | Cl2OS
reactant | NaN3 | 3.75 mmol, 244 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | CH3CN | 20 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-(4-(azidomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one | 203 mg | N(=[N+]=[N-])CC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C15H12N6O
